US07265120B2
A mixture of 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile (343 mg) and (4-methoxybenzyl)amine (0.137 ml) in DMA (1 ml) was heated at 80-85° C. for 25 hours. After addition of water, a precipitate was collected by filtration, dissolved in CHCl3, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give 6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarbonitrile as an amorphous solid (227 mg).

reactant | 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile | 343 mg | C(C)(C)N1N=C(C=CC1=O)C=1N=C(C(=NC1C1=CC=CC=C1)C#N)C#N | C19H14N6O
reactant | (4-methoxybenzyl)amine | 0.137 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarbonitrile | 227 mg | C(C)(C)N1N=C(C=CC1=O)C1=C(N=C(C(=N1)C#N)NCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H24N6O2
